US07700625B2
1.0 g of 2-(p-toluensulphonyl)-5-chloroisoindoline and 1.0 g of phenol were added to a mixture of 8 ml of 48% hydrobromic acid and 1.4 ml of propionic acid, and then mixture was heated at reflux for 6 hours. The resultant reaction mixture was diluted with 10 ml of water and extracted twice with 50 ml of ethyl acetate. The water layer was basified with aqueous sodium hydroxide solution and extracted with ethyl acetate three times. The extract was concentrated and the crude product was diluted with 4N HCl/dioxane and stirred for 15 minutes before evaporating the HCl and then re-evaporating with toluene three times to give 0.3 g of 5-chloro-2,3-dihydro-1H-isoindole hydrochloride as a black solid.

reactant | 2-(p-toluensulphonyl)-5-chloroisoindoline | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)Cl)C | C15H14ClNO2S
reactant | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | propionic acid | 1.4 ml | C(CC)(=O)O | C3H6O2
solvent | water | 10 ml | O | H2O
product | 5-chloro-2,3-dihydro-1H-isoindole hydrochloride | 0.3 g | Cl.ClC=1C=C2CNCC2=CC1 | InChI=1S/C8H8ClN.ClH/c9-8-2-1-6-4-10-5-7(6)3-8;/h1-3,10H,4-5H2;1H
